US09145409B2
Step 1: Preparation of 3,5-dichloro-4-((S)-2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-(((S)-3-(3-hydroxybenzyl)thiazolidine-2-carbonyl)oxy)ethyl)pyridine 1-oxide (E6a)
To a stirred solution of 3,5-dichloro-4-((S)-2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-((S)-thiazolidine-2-carbonyloxy)ethyl)pyridine 1-oxide hydrochloride (I5, 300 mg, 0.52 mmol) in DCM (2 mL) was added 3-hydroxybenzaldehyde (172 mg, 1.2 mmol) followed by glacial AcOH (0.11 mL, 2.08 mmol). The reaction was stirred at room temperature for 18 hours. Sodium triacetoxyborohydride (500 mg, 2.26 mmol) was added and the reaction was stirred at room temperature for 4 h. DCM (50 mL) and 1 N HCl (20 mL) were added to quench the reaction. The layers were separated and the organic layer washed with 1 N HCl (2×20 mL), passed through a hydrophobic fit and the solvent was removed in vacuo to give the title compound.

reactant | 3,5-dichloro-4-((S)-2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-((S)-thiazolidine-2-carbonyloxy)ethyl)pyridine 1-oxide hydrochloride | 0.52 mmol, 300 mg | Cl.ClC=1C=[N+](C=C(C1C[C@H](OC(=O)[C@@H]1SCCN1)C1=CC(=C(C=C1)OC(F)F)OCC1CC1)Cl)[O-]
reactant | 3-hydroxybenzaldehyde | 1.2 mmol, 172 mg | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | AcOH | 2.08 mmol, 0.11 mL | CC(=O)O | C2H4O2
reactant | Sodium triacetoxyborohydride | 2.26 mmol, 500 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | HCl | 1 N, 20 mL | Cl | ClH
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 3,5-dichloro-4-((S)-2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-(((S)-3-(3-hydroxybenzyl)thiazolidine-2-carbonyl)oxy)ethyl)pyridine 1-oxide | ClC=1C=[N+](C=C(C1C[C@H](OC(=O)[C@@H]1SCCN1CC1=CC(=CC=C1)O)C1=CC(=C(C=C1)OC(F)F)OCC1CC1)Cl)[O-] | C29H28Cl2F2N2O6S
